US05001228
Synthesis of 2,2'-azobis[N-(2-propenyl)-2-methyl propionamide]
Dimethyl 2,2'-azobis(2-methylpropionate) in an amount of 41.9 g, 48 ml of methanol, and 43 g of a 28% CH3ONa methanol solution were mixed and stirred for dissolution, followed by dropwise addition of 25 g of allylamine to react at 19° to 21° C. for 20 hours.

reactant | Dimethyl 2,2'-azobis(2-methylpropionate) | N(=NC(C(=O)OC)(C)C)C(C(=O)OC)(C)C | C10H18N2O4
reactant | allylamine | 25 g | C(C=C)N | C3H7N
solvent | methanol | 48 ml, 41.9 g | CO | CH4O
product | 2,2'-azobis[N-(2-propenyl)-2-methyl propionamide] | N(=NC(C(=O)NCC=C)(C)C)C(C(=O)NCC=C)(C)C | C14H24N4O2
